US06180627B2
2-[6-Methyl-2-oxo-3-({[(2R)-1-tetrahydro-2H-pyran-4-yl-2-pyrrolidinyl]methyl}amino)-1(2H)-pyrazinyl]acetic acid hydrochloride
A mixture of benzyl 2-[3-chloro-2-methyl-6-oxo-5-({[(2R)-1-tetrahydro-2H-pyran-4-yl-2-pyrrolidinyl]methyl}amino)-1(6H)-pyrazinyl]acetate (preparation 158) (970 mg, 2.04 mmol) and palladium hydroxide (80 mg) in ethanol (8 ml) was hydrogenated at 15 psi and room temperature for 20 hrs. The reaction mixture was filtered through Whatman® fibre, and the filtrate evaporated under reduced pressure to give the desired compound, (680 mg, 95%).

reactant | benzyl 2-[3-chloro-2-methyl-6-oxo-5-({[(2R)-1-tetrahydro-2H-pyran-4-yl-2-pyrrolidinyl]methyl}amino)-1(6H)-pyrazinyl]acetate | 2.04 mmol, 970 mg | ClC1=C(N(C(C(=N1)NC[C@@H]1N(CCC1)C1CCOCC1)=O)CC(=O)OCC1=CC=CC=C1)C | C24H31ClN4O4
solvent | ethanol | 8 ml | C(C)O | C2H6O
catalyst | palladium hydroxide | 80 mg | [OH-].[Pd+2].[OH-]
product | 2-[6-Methyl-2-oxo-3-({[(2R)-1-tetrahydro-2H-pyran-4-yl-2-pyrrolidinyl]methyl}amino)-1(2H)-pyrazinyl]acetic acid hydrochloride | 680 mg, 95% | Cl.CC1=CN=C(C(N1CC(=O)O)=O)NC[C@@H]1N(CCC1)C1CCOCC1 | InChI=1S/C17H26N4O4.ClH/c1-12-9-18-16(17(24)21(12)11-15(22)23)19-10-14-3-2-6-20(14)13-4-7-25-8-5-13;/h9,13-14H,2-8,10-11H2,1H3,(H,18,19)(H,22,23);1H/t14-;/m1./s1
